US05480946
56.52 g (32.0 m moles) of the aminopropyl-capped PDMS of Example 1 are placed in a 100 mL 3-neck round bottom flask fitted with a mechanical stirrer, gas inlet tube and thermometer. The diamine is cooled with an ice-water bath and kept under a dry air atmosphere. 12.90 g (64.1 m moles) of m-isopropenyl-α,α-dimethylbenzyl isocyanate (TMI) are added while stirring. After 2 hours the mixture becomes very thick and 69.42 g of trimethylcyclohexyl methacrylate (TMMA) are added. The ice-water bath is removed and the contents are stirred for an additional 4 hours to yield a 66.1% solution of α-methylstyrene capped poly(dimethylsiloxane) in TMMA.

reactant | m-isopropenyl-α,α-dimethylbenzyl isocyanate | 12.90 g | C(=C)(C)C=1C=C(C(C)(C)N=C=O)C=CC1 | C13H15NO
reactant | trimethylcyclohexyl methacrylate | 69.42 g | C(C(=C)C)(=O)OC1(C(CCCC1)(C)C)C | C13H22O2
product | α-methylstyrene | CC(=C)C1=CC=CC=C1 | C9H10
